US07064152B2
Preparation of N-Hexadecylpyridinium 4-Cyanobenzenesulfinate
A solution of N-hexadecylpyridinium chloride (1.6 g) in ethanol (20 mL) was added to an Erlenmeyer flask containing a magnetically stirred boiling solution of sodium 4-cyanobenzenesulfinate (1.0 g) in anhydrous ethanol (200 mL). The mixture was allowed to cool to room temperature and was then further cooled in an ice bath. The mixture was filtered and the filtrate was concentrated to dryness using a rotary evaporator. The residue was then dissolved in chloroform (100 mL), filtered, and concentrated to dryness using a rotary evaporator to afford 2.4 g of product.

reactant | N-hexadecylpyridinium chloride | 1.6 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+]1=CC=CC=C1
reactant | sodium 4-cyanobenzenesulfinate | 1.0 g | C(#N)C1=CC=C(C=C1)S(=O)[O-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-Hexadecylpyridinium 4-Cyanobenzenesulfinate | 2.4 g | C(#N)C1=CC=C(C=C1)S(=O)[O-].C(CCCCCCCCCCCCCCC)[N+]1=CC=CC=C1 | InChI=1S/C21H38N.C7H5NO2S/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-16-19-22-20-17-15-18-21-22;8-5-6-1-3-7(4-2-6)11(9)10/h15,17-18,20-21H,2-14,16,19H2,1H3;1-4H,(H,9,10)/q+1;/p-1
